US06642228B1
1-(4-Indol-3-ylpiperidyl)-3-piperidylpropan-1-one Hydrochloride
To a suspended solution of 4-(3-indolyl)piperidine (200 mg, 1.0 mmol) in dichloromethane (15 mL) was added pyridine (5 mL), and the resulting mixture was cooled to 0° C. Subsequently, 3-chloropropionyl chloride (0.25 mL, 2.6 mmol) was then added dropwise to the mixture, and the resulting mixture was stirred at 0° C. for 2 hours. After the reaction mixture was poured into hydrochloric acid and then extracted with ethyl acetate, the ethyl acetate layer was washed with 1 N hydrochloric acid and a saturated aqueous sodium chloride and was dried over anhydrous sodium sulfate. After sodium sulfate was filtered off, the filtrate was concentrated to afford a crude product (100 mg). After identifying the structure of the crude product by 1H NMR and IR, piperidine (350 mg, 4.0 mmol) was added to a solution of the crude product in acetonitrile (10 mL), and the mixture was stirred at 80° C. for 3 hours. After concentrating the reaction mixture, water (10 mL) was added thereto, and the resulting mixture was extracted with chloroform. After drying over anhydrous sodium sulfate, the chloroform layer was concentrated, and the resulting crude product was purified by column chromatography on a silica gel (silica gel NH-DM 1020 produced by Fuji Silysia Chemical Ltd., eluent; hexane:ethyl acetate=1:2) to afford a free form (97 mg, yield: 29%) of the title compound as a colorless amorphous solid. After adding hydrochloric acid/methanol to a solution of the free form (67 mg) in methanol, the mixture was concentrated and was then reprecipitated from ethanol/ether to afford the title compound (50 mg) as a pale yellow amorphous solid.

reactant | 4-(3-indolyl)piperidine | 1.0 mmol, 200 mg | N1C=C(C2=CC=CC=C12)C1CCNCC1 | C13H16N2
reactant | 3-chloropropionyl chloride | 2.6 mmol, 0.25 mL | ClCCC(=O)Cl | C3H4Cl2O
reactant | hydrochloric acid | Cl | ClH
reactant | piperidine | 4.0 mmol, 350 mg | N1CCCCC1 | C5H11N
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | 1-(4-Indol-3-ylpiperidyl)-3-piperidylpropan-1-one Hydrochloride | 97 mg, yield: 29% | Cl.N1C=C(C2=CC=CC=C12)C1CCN(CC1)N1CC(CCC1)C(CC)=O | InChI=1S/C21H29N3O.ClH/c1-2-21(25)17-6-5-11-24(15-17)23-12-9-16(10-13-23)19-14-22-20-8-4-3-7-18(19)20;/h3-4,7-8,14,16-17,22H,2,5-6,9-13,15H2,1H3;1H
